** sch_path: /foss/designs/eda/SymXplorer/examples/tunable-tia/ihp-sg13g2/xschem/tia-topo-3/tb_noise.sch
**.subckt tb_noise
.save v(in)
V0 VSS GND 0
V2 VDD GND {vdd}
V1 Vbias GND {vbias}
C4 Von GND {cload} m=1
C5 Vop GND {cload} m=1
Icm2 In GND {icm}
Idn1 In GND dc 0 ac -0.5
Icm3 Ip GND {icm}
Idp1 Ip GND dc 0 ac 0.5
x_dut1 VDD Vop VSS Von Vbias In Ip tia-bpf-3-ideal-component
.save v(ip)
.save v(vop)
.save v(von)
**** begin user architecture code


****** START OF CONTROL SECTION ******

.temp 27
.control
    option sparse
    set filetype=ascii
    save all

    * --- AC Analysis ---
    * Optional for debug
    * ac dec 101 1k 1G
    * plot 20*log10(v(Vop) - v(Von))
    * echo AC Analysis Complete.

    echo =============================================
    echo Starting Noise Analysis...
    echo     (Output: v(Vop, Von), Input: Idp1)
    echo =============================================

    * --- Noise Analysis ---
    * [EDIT] will need to change the frequency limits as needed.
    noise v(Vop, Von) Idp1 lin 1000 1MEG 1000MEG 1
    echo Noise Analysis Complete.

    * Set the plot type to noise1 since this is where the information about noise densities are stored
    setplot noise1
    plot inoise_spectrum

    echo ---------------------------------------------
    echo Calculating Total Integrated Noise Metrics...
    echo ---------------------------------------------
    * Set the plot type to noise2 since this is where the integerated values are stored.
    setplot noise2

    * --- Save Metrics as Variables ---
    * Create new vectors in the 'noise2' plot (which is now active)
    let total_input_noise_sqr = inoise_total
    let total_output_noise_sqr = onoise_total
    let total_input_noise_rms = sqrt(inoise_total)
    let total_output_noise_rms = sqrt(onoise_total)

    * --- Print Metrics to Log ---
    * Use echo and print to show the final RMS values clearly
    echo
    echo Total Input-Referred Noise (RMS):
    print total_input_noise_rms
    echo
    echo Total Output-Referred Noise (RMS):
    print total_output_noise_rms
    echo

    * --- Write to File ---
    echo Saving noise spectra and metrics to rawspice.raw (has to have this name)...
    * Only save whats needed.
    write rawspice.raw noise1.inoise_spectrum noise1.onoise_spectrum noise2.inoise_total noise2.onoise_total
    
    echo Save Complete.
    echo =============================================
    echo Simulation Finished.
    echo =============================================
    * quit

.endc

******  END OF CONTROL SECTION ******



********** Models ************
.lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
********** END of Models ************




****** Save Statements ******
*.option savecurrents

** nfet small signal parameters **
*.save @n.x_dut.xm1.nsg13_lv_nmos[cdd]
* .save @n.x_dut.xm1.nsg13_lv_nmos[cgb]
* .save @n.x_dut.xm1.nsg13_lv_nmos[cgd]
* .save @n.x_dut.xm1.nsg13_lv_nmos[cgdol]
* .save @n.x_dut.xm1.nsg13_lv_nmos[cgg]
* .save @n.x_dut.xm1.nsg13_lv_nmos[cgs]
* .save @n.x_dut.xm1.nsg13_lv_nmos[cgsol]
* .save @n.x_dut.xm1.nsg13_lv_nmos[cjd]
* .save @n.x_dut.xm1.nsg13_lv_nmos[cjs]
* .save @n.x_dut.xm1.nsg13_lv_nmos[css]
* .save @n.x_dut.xm1.nsg13_lv_nmos[gds]
* .save @n.x_dut.xm1.nsg13_lv_nmos[gm]
* .save @n.x_dut.xm1.nsg13_lv_nmos[gmb]
* .save @n.x_dut.xm1.nsg13_lv_nmos[ids]
* .save @n.x_dut.xm1.nsg13_lv_nmos[l]
* .save @n.x_dut.xm1.nsg13_lv_nmos[sfl]
* .save @n.x_dut.xm1.nsg13_lv_nmos[sid]
* .save @n.x_dut.xm1.nsg13_lv_nmos[vth]

* .save @n.x_dut.xm1.nsg13_lv_nmos[vgs]
* .save @n.x_dut.xm1.nsg13_lv_nmos[vds]
* .save @n.x_dut.xm1.nsg13_lv_nmos[vdss]

******  End of Save Statements ******




****** TB Parameters ******
.param icm=0.5e-6
.param vdd=1.2
.param vbias=1
.param cload=100p
******  End of TB Params ******




****** All DUT parameters ******

* MOSFET PARAMETERS
.param x_dut_nfet_w=0.40u
.param x_dut_nfet_l=0.26u
.param x_dut_nfet_m=10

* PASSIVE ELEMENT PARAMETERS

.param x_dut_cap_size=500f
.param x_dut_res_size=100.0k
.param x_dut_ind_size=200.0n

****** END of DUT Params ******


**** end user architecture code
**.ends

* expanding   symbol:  tunable-tia/ihp-sg13g2/xschem/tia-topo-3/tia-bpf-3-ideal-component.sym # of pins=7
** sym_path: /foss/designs/eda/SymXplorer/examples/tunable-tia/ihp-sg13g2/xschem/tia-topo-3/tia-bpf-3-ideal-component.sym
** sch_path: /foss/designs/eda/SymXplorer/examples/tunable-tia/ihp-sg13g2/xschem/tia-topo-3/tia-bpf-3-ideal-component.sch
.subckt tia-bpf-3-ideal-component vdd vop vss von vbias inn inp
*.iopin vdd
*.iopin vss
*.ipin inp
*.ipin inn
*.opin von
*.opin vop
*.ipin vbias
XM1 vop vbias inn vss sg13_lv_nmos w={x_dut_nfet_w} l={x_dut_nfet_l} ng=1 m={x_dut_nfet_m} rfmode=1
XM2 von vbias inp vss sg13_lv_nmos w={x_dut_nfet_w} l={x_dut_nfet_l} ng=1 m={x_dut_nfet_m} rfmode=1
L2 inp vss {x_dut_ind_size} m=1
L3 inn vss {x_dut_ind_size} m=1
R1 vdd vop {x_dut_res_size} m=1
R2 vdd von {x_dut_res_size} m=1
C1 vdd vop {x_dut_cap_size} m=1
C2 vdd von {x_dut_cap_size} m=1
.ends

.GLOBAL GND
.end
